US06500863B1
4-chloro-3-(1,1-dioxidothiomorpholinosulfonyl)-2-hydroxyaniline
Following the general hydrogenation procedure outlined in example 15, 6-chloro-1-(1,1 -dioxidothiomorpholinosulfonyl)-2-hydroxy-3-nitrobenzene (220 mg, 0.60 mmol) was reduced with hydrogen and 10% Pd/C (100 mg) to give the desired (186 mg, 92%). 1H NMR (MeOD-d4): δ 6.88 (m, 2H), 3.85 (t, 4H), 3.22 (t, 4H).

reactant | 6-chloro-1-(1,1 -dioxidothiomorpholinosulfonyl)-2-hydroxy-3-nitrobenzene | 0.60 mmol, 220 mg | ClC1=CC=C(C(=C1S(=O)(=O)N1CCS(CC1)(=O)=O)O)[N+](=O)[O-] | C10H11ClN2O7S2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 4-chloro-3-(1,1-dioxidothiomorpholinosulfonyl)-2-hydroxyaniline | ClC1=C(C(=C(N)C=C1)O)S(=O)(=O)N1CCS(CC1)(=O)=O | C10H13ClN2O5S2
